US08389523B2
2.4 g (10.3 mmol) of ethyl 1-methyl-2-oxo-1,2-dihydroquinoxaline-3-carboxylate and 4.2 g (10.4 mmol) of Lawesson's reagent were added to toluene (50 mL), and the mixture was stirred for a day while maintaining the liquid temperature at 100° C. The reaction mixture was cooled to room temperature, and then the solvent was distilled off under reduced pressure. Chloroform was added to the residue, the insoluble was separated by filtration, and the filtrate was concentrated under reduced pressure. The residue thus obtained was dissolved in ethanol (300 mL), 4.9 g of a 25% aqueous solution of sodium hydroxide was added at room temperature, and the mixture was stirred for a day at room temperature. The reaction mixture was concentrated under reduced pressure, water was added thereto, and the mixture was adjusted to pH 1 using 10% hydrochloric acid. A solid precipitated therefrom was collected by filtration, and was washed with water. The solid thus obtained was dried, and this solid was dissolved in chloroform (50 mL). 1.7 g (13.4 mmol) of oxalyl chloride and one droplet of N,N-dimethylformamide were added to the solution, and the reaction solution was stirred for 2 hours at room temperature, and concentrated under reduced pressure. The residue thus obtained was dissolved in chloroform (20 mL), 0.84 g (7.49 mmol) of 1,3-cyclohexanedione and 0.83 g (8.20 mmol) of triethylamine were added thereto, and the mixture was stirred for one hour at room temperature. 0.83 g (8.20 mmol) of triethylamine and 0.64 g (7.52 mmol) of acetone cyanohydrin were further added at room temperature, and the mixture was stirred for two days at room temperature. The reaction mixture was washed with 10% hydrochloric acid, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue thus obtained was purified by silica gel chromatography (developing solvent:ethyl acetate/chloroform=1/1). The resulting solid was washed with ethyl acetate, to obtain 0.40 g of 3-hydroxy-2-(1-methyl-2-thioxo-1,2-dihydroquinoxaline-3-carbonyl)-2-cyclohexen-1-one as a yellow powder (melting point 300° C. or above).

reactant | ethyl 1-methyl-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 10.3 mmol, 2.4 g | CN1C(C(=NC2=CC=CC=C12)C(=O)OCC)=O | C12H12N2O3
reactant | Lawesson's reagent | 10.4 mmol, 4.2 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | oxalyl chloride | 13.4 mmol, 1.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,3-cyclohexanedione | 7.49 mmol, 0.84 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | triethylamine | 8.20 mmol, 0.83 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 8.20 mmol, 0.83 g | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 7.52 mmol, 0.64 g | CC(C#N)(O)C | C4H7NO
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxy-2-(1-methyl-2-thioxo-1,2-dihydroquinoxaline-3-carbonyl)-2-cyclohexen-1-one | 0.40 g | OC1=C(C(CCC1)=O)C(=O)C=1C(N(C2=CC=CC=C2N1)C)=S | C16H14N2O3S
